US08404679B2
N-{(3RS,4SR)-4-(4-Chloro-phenyl)-1-[1-(3-methylsulfanyl-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide
In analogy to the procedure described for the synthesis of example 104, the title compound N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(3-methylsulfanyl-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide was prepared from N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide using 3-(methylthio)propionaldehyde instead of acetone and was obtained as a colorless oil. MS m/e: 612.1 [M]+.

reactant | N-[(3RS,4SR)-4-(4-chloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCNCC1)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C26H29ClF3N3O3
reactant | 3-(methylthio)propionaldehyde | CSCCC=O | C4H8OS
product | N-{(3RS,4SR)-4-(4-chloro-phenyl)-1-[1-(3-methylsulfanyl-propyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-4-methoxy-N-methyl-3-trifluoromethyl-benzamide | ClC1=CC=C(C=C1)C1C(CN(C1)C(=O)C1CCN(CC1)CCCSC)N(C(C1=CC(=C(C=C1)OC)C(F)(F)F)=O)C | C30H37ClF3N3O3S
